US08314100B2
1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine (Compound 192)
Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate and 1-(3-methylphenyl)piperazine were reacted by the same way with the example 190 to obtain the titled compound (yield, 56%). 1H NMR (300 MHz, CDCl3) δ 2.34 (s, 3H), 3.25-3.30 (m, 4H), 3.76-3.80 (m, 4H), 3.98 (s, 3H), 4.02 (s, 3H), 4.16 (s, 3H), 6.74-6.78 (m, 3H), 7.14-7.26 (m, 4H).

reactant | Ethyl N-(2,6,7-trimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC(=C(C=C2N=C1NC(OCC)=O)OC)OC | C14H17N3O5
reactant | 1-(3-methylphenyl)piperazine | CC=1C=C(C=CC1)N1CCNCC1 | C11H16N2
product | 1-[(2,6,7-Trimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methylphenyl)piperazine | 56% | COC1=NC2=CC(=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)C)OC)OC | C23H27N5O4
